US05364878
Preparation of 3,4-dihydro-2,2-dimethyl-6-phenylsulfonyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol (compound of Example 5 by process variant c)
A solution of 3-bromo-3,4-dihydro-2,2-dimethyl-6-phenylsulfonyl-2H-benzo[b]pyran-4-ol in ethanol is shaken under a pressure of 8 bar of NH3 at 50° in an autoclave for 8 hours. The mixture is cooled and then evaporated to dryness and recrystallized from ethyl acetate. 4-Amino-3,4-dihydro-2,2-dimethyl-6-phenylsulfonyl-2H-benzo[b]pyran-3-ol of melting point: 160°-163°C. is obtained and is immediately subjected to acylation with 4-chlorobutyryl chloride. For this purpose, the substance is dissolved together with the acid chloride in CH2Cl2 and stirred in a two-phase mixture with 2N sodium hydroxide solution at room temperature for 24 hours. The usual working up results in 4-(4-chlorobutyrylamino)-3,4-di-hydro-2,2-dimethyl-6-phenylsulfonyl-2H-benzo[b]pyran-4-ol of melting point 155°-157° C. Cyclization to give the title compound is carried out by dissolving the substance in tetrahydrofuran, addition of a stoichiometric amount of 80% NaH suspension in oil and stirring the mixture at room temperature for 24 hours. The final product is identical to the product obtained by process b). Melting point: 200°-201° C. If 4-amino-3,4-dihydro-2,2-dimethyl-6-phenylsulfonyl-2H-benzo[b]pyran-3-ol is subjected to racemate resolution, it is possible to obtain from its (+) enantiomer the pure (+) enantiomer from Example 5a with the data indicated there.

reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 4-(4-chlorobutyrylamino)-3,4-di-hydro-2,2-dimethyl-6-phenylsulfonyl-2H-benzo[b]pyran-4-ol | ClCCCC(=O)NC1(C2=C(OC(C1)(C)C)C=CC(=C2)S(=O)(=O)C2=CC=CC=C2)O | C21H24ClNO5S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-2,2-dimethyl-6-phenylsulfonyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol | CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)S(=O)(=O)C2=CC=CC=C2)N2C(CCC2)=O)O)C | C21H23NO5S
